US05453518
8-Methylaminomethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XI)
A solution of 15.1 g of anhydrous zinc chloride and 14.5 g of sodium cyanoborohydride in 400 ml of anhydrous methanol was added dropwise with stirring at 0° C. to a mixture of 58 g of 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (prepared as described in Uneyama, K. et al., Bull. Chem. Soc. Jap. 58:2361 (1985)), 60.7 g of methylamine hydrochloride and 125 ml of triethylamine in 600 ml of anhydrous methanol. After stirring for 5 hours at 20°-25° C., the solvent was evaporated off in vacuo and the residue was taken up in 200 ml of water and collected by suction filtration. The crude product was dissolved in aqueous acetic acid, washed with ethyl acetate and reprecipitated by the addition of a 6N sodium hydroxide solution. 49 g of the title compound was obtained, with a melting point of 97°-99° C., after crystallization from 75% ethanol.

reactant | sodium cyanoborohydride | 14.5 g | C(#N)[BH3-].[Na+]
reactant | 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 58 g | C(=O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H12O3
reactant | methylamine hydrochloride | 60.7 g | Cl.CN
reactant | triethylamine | 125 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 600 ml | CO | CH4O
catalyst | zinc chloride | 15.1 g | [Cl-].[Zn+2].[Cl-]
product | 8-Methylaminomethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 49 g | CNCC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C18H17NO2
